US09102688B2
General Procedure 41: Quinolin-8-yl-sulfamic acid phenyl ester (Example Compound 70)
Chlorosulfonic acid (210 mg, 1.8 mmol) in DCM was added dropwise to solution of 8-aminoquinoline (250 mg, 1.7 mmol) and TEA (260 mg, 2.6 mmol) in DCM (5 ml) at 0° C. and the mixture was stirred for 30 min. The reaction was allowed to warm to room temperature and stirring was continued for 1 h. PCl5 (370 mg, 1.8 mmol) was added and the mixture was heated at 50° C. for 1 h. The reaction was cooled to room temperature, phenol (310 mg, 3.4 mmol) and TEA (340 mg, 3.4 mmol) were added and the reaction was stirred at room temperature overnight. Water was added and the mixture was extracted with DCM, the organic phase dried (Na2SO4) and concentrated in vacuo. The crude residue was purified by column chromatography with n-hexane/EtOAc (4:1) as the eluent to give the title compound (40 mg, 8%).

reactant | Chlorosulfonic acid | 1.8 mmol, 210 mg | ClS(=O)(=O)O | ClHO3S
reactant | 8-aminoquinoline | 1.7 mmol, 250 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | PCl5 | 1.8 mmol, 370 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phenol | 3.4 mmol, 310 mg | C1(=CC=CC=C1)O | C6H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | Quinolin-8-yl-sulfamic acid phenyl ester | 40 mg, 8% | C1(=CC=CC=C1)OS(NC=1C=CC=C2C=CC=NC12)(=O)=O | C15H12N2O3S
